US05292452
A solution of 10.62 g of 4-chlorocyclohexanecarboxalde-hyde in 150 ml of toluene is treated with 11.5 ml of 1,3-propanediol and 1 g of Amberlyst® 15 and heated to boiling for 2 hours on a water separator while stirring. The reaction mixture is treated with 2 ml of triethylamine and, after cooling, is filtered. The filtrate is washed three times with 30 ml of water, dried over sodium sulphate and concentrated. There is obtained 2-(4-chlorocyclohexyl)-1,3-dioxane.

reactant | 4-chlorocyclohexanecarboxalde-hyde | 10.62 g | ClC1CCC(CC1)C=O | C7H11ClO
reactant | 1,3-propanediol | 11.5 ml | C(CCO)O | C3H8O2
reactant | water | O | H2O
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-chlorocyclohexyl)-1,3-dioxane | ClC1CCC(CC1)C1OCCCO1 | C10H17ClO2
